US03931179
A mixture of 25.3 g. of 6,7-ethylenedioxyquinazolin-4(3H)-one and 50 ml. of phosphorus oxychloride is refluxed for 10 minutes, cooled, and added with stirring to one liter of ice. After addition of concentrated ammonia the resulting mixture is extracted with chloroform and the chloroform solution chromatographed through 300 mls. of silica gel while eluting with chloroform. Evaporation of the eluent yields 4-chloro-6,7-ethylenedioxyquinazoline, m.p. 169°-174°C.

reactant | 6,7-ethylenedioxyquinazolin-4(3H)-one | C1OC=2C=C3C(NC=NC3=CC2OC1)=O | C10H8N2O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
product | 4-chloro-6,7-ethylenedioxyquinazoline | ClC1=NC=NC2=CC3=C(C=C12)OCCO3 | C10H7ClN2O2
